US07612064B2
4-Bromo-1-(m-chlorobenzensulfonyl)-2-(3,4-methylenedioxyphenyl)-pyrrole
The title compound is prepared from 3-(m-chlorobenzenesulfonylamino)-1-propinyl 3,4-methylenedioxyphenyl ketone and HBr in acetic acid following the procedure of Example 3b. 1H-NMR (300 MHz, CDCl3): 7.6-7.5 (m, 1H); 7.54 (d, J=2.0 Hz, 1H); 7.4-7.3 (m, 3H); 6.8-6.7 (m, 1H); 6.7-6.6 (m, 2H); 6.16 (d, J=2.0 Hz, 1H); 6.05 (s, 2H).

reactant | 3-(m-chlorobenzenesulfonylamino)-1-propinyl 3,4-methylenedioxyphenyl ketone | C1OC=2C=C(C=CC2O1)C(=O)C#CCNS(=O)(=O)C1=CC(=CC=C1)Cl | C17H12ClNO5S
reactant | HBr | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-Bromo-1-(m-chlorobenzensulfonyl)-2-(3,4-methylenedioxyphenyl)-pyrrole | BrC=1C=C(N(C1)S(=O)(=O)C1=CC(=CC=C1)Cl)C1=CC2=C(C=C1)OCO2 | C17H11BrClNO4S
